datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[H:21])[H:20])[H:19])([H:17])[H:18])[H:16])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])=[C:7]([H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:12])([H:10])[H:11],114.474
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:6])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])([H:4])[H:5],77.4458
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[H:7][H:8]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:8].[H:7],44.7688
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[S:7][S:8][H:9]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][S:7][S:8][H:9],-6.276
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])[H:12])([H:10])[H:11],40.5011
[C:0](#[C:1][S:2])[H:3].[S:4]([S:5][H:7])[H:6]>>[C:0](#[C:1][S:2][H:6])[H:3].[S:4][S:5][H:7],-1.2552
[H:7].[O:0]=[C:1]1[O:2][C:3]([H:5])([H:6])[O:4]1>>[H:5][H:7].[O:0]=[C:1]1[O:2][C:3]([H:6])[O:4]1,8.38892
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5](=[O:6])[H:9])([H:7])[H:8]>>[C:0]1([H:2])([H:3])[O:1][O:6][C:5]1([C:4]([H:7])[H:8])[H:9],322.616
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:25])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:8],41.2542
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])[O:7][O:8])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])[O:7][O:8][H:15])([H:9])([H:10])[H:11],125.9384
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[N:14]([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][N:14]([H:15])[H:16],42.2584
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30])([H:10])([H:11])[H:12],39.999
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22][C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:22](=[C:21]([H:24])[H:25])[C:23]([H:26])([H:27])[H:28])[H:11],4.8116
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])[H:11])([H:9])[H:10],73.8476
[O:0]=[C:1][O:2][H:3].[O:4][O:5]>>[H:3][O:4][O:5].[O:0]=[C:1]=[O:2],0.0
[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],15.0624
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]([S:13][H:15])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:14])[H:7])([H:5])[H:6].[S:12][S:13][H:15],2.5104
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3].[C:6]([S:7][H:11])([H:9])[H:10],49.7896
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21],45.6056
